US07468364B2
To sodium (5R,6S)-3-(3-fluoro-4-methoxyphenyl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (100 mg) in DMF (3 mL) was added at 0° C. pivaloyloxymethyl iodide (77 mg), and the mixture was stirred for 15 minutes. To the reaction mixture was added diethyl ether (50 mL), and the mixture was washed with saturated brine (50 mL×3times), dried over magnesium sulfate, filtered, and the solvent was removed in vacuo. The residue was purified under silica gel column chromatography (chloroform:methanol=100:0˜100:3) to give [(2,2-dimethylpropanoyl)oxy]methyl (5R,6S)-3-(3-fluoro-4-methoxyphenyl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (70 mg, 55%).

reactant | sodium (5R,6S)-3-(3-fluoro-4-methoxyphenyl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 100 mg | FC=1C=C(C=CC1OC)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)[O-].[Na+]
reactant | pivaloyloxymethyl iodide | 77 mg | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | [(2,2-dimethylpropanoyl)oxy]methyl (5R,6S)-3-(3-fluoro-4-methoxyphenyl)-6-[(1R)-1-hydroxyethyl]-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 70 mg, 55% | FC=1C=C(C=CC1OC)C1=C(N2C([C@@H]([C@H]2C1)[C@@H](C)O)=O)C(=O)OCOC(C(C)(C)C)=O | C22H26FNO7
